US05998463
Preparation 16 1-(2,2,2-Trifluoro-ethyl)-1H-indole-2.3-dione.
Sodium hydride (8.65 g of a 60% oil dispersion, 0.22 mol) was washed with hexane and suspended in hexamethylphosphoramide (200 mL). Isatin (29.4 g, 0.20 mol)) was added carefully. After the gas evolution subsided, 2,2,2-trifluoroethyl iodide (46.2 g, 0.22 mol) was added and the mixture was heated to 55° C. for 4 hours. The solution was cooled, diluted with water (1 L), and the precipitate was collected. The filtrate was acidified with 6 N HCl and a new precipitate formed and was collected. The combined solids were recrystallized from 95% ethanol. Yield 22.5 g (49%). mp 161-163° C.

reactant | Isatin | 0.20 mol, 29.4 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2,2,2-trifluoroethyl iodide | 0.22 mol, 46.2 g | FC(CI)(F)F | C2H2F3I
solvent | water | 1 L | O | H2O
product | 1-(2,2,2-Trifluoro-ethyl)-1H-indole-2.3-dione | FC(CN1C(C(C2=CC=CC=C12)=O)=O)(F)F | C10H6F3NO2
